US06465508B1
2-(4-Fluoro-benzenesulfonylamino)-3,5-dimethyl-benzoic acid methyl ester
To a solution of 2.00 g (0.011 mmol) of methyl 3,5-dimethylanthranilic acid in 10.0 mL of pyridine was added 2.17 (0.011 mmol) of 4-fluorobenzenesulfonyl chloride. The reaction mixture was stirred for 24 h at room temperature and then diluted with chloroform and washed with 5% HCl solution and water. The organic layer was then dried over MgSO4, filtered and concentrated in vacuo. The residue was triturated with ether-hexanes and the resulting solid was filtered and dried to provide 3.09 g (82%) of the desired product as a white solid. Electrospray Mass Spec: m/z 338.3 (M+H)+.

reactant | methyl 3,5-dimethylanthranilic acid | 0.011 mmol, 2.00 g | CNC=1C(C(=O)O)=CC(=CC1C)C | C10H13NO2
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | pyridine | 10.0 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Fluoro-benzenesulfonylamino)-3,5-dimethyl-benzoic acid methyl ester | 3.09 g, 82% | COC(C1=C(C(=CC(=C1)C)C)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C16H16FNO4S
